US07910588B2
Dissolve 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester (0.662 g, 3.57 mmol) and pyridin-2-yl-hydrazine (0.410 g, 3.75 mmol) in ethanol (15 mL) and reflux for 2 hr. Evaporate the mixture then dilute with saturated sodium bicarbonate and extract three times with ethyl acetate. Dry the solution (sodium sulfate), filter and concentrate. Purify using silica gel chromatography, eluting with 50:50 ethyl acetate:hexane to give 5-methyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester as a white solid (0.700 g, 85%). MS (m/z): 232 (M+1).

reactant | 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester | 3.57 mmol, 0.662 g | C(C)OC(C(C(C)=O)=CN(C)C)=O | C9H15NO3
reactant | pyridin-2-yl-hydrazine | 3.75 mmol, 0.410 g | N1=C(C=CC=C1)NN | C5H7N3
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-methyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.700 g, 85% | C(C)OC(=O)C=1C=NN(C1C)C1=NC=CC=C1 | C12H13N3O2
